US07345180B2
2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid
2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid amide (475 mg) was dissolved in ethanol (5 ml), and 5 N sodium hydroxide solution (2 ml) was added thereto and stirred for 1 hour at 70° C. The reaction mixture was cooled to room temperature, water was added thereto, and the reaction mixture was washed with ethyl acetate. 2 N Hydrochloric acid was added to the aqueous phase until it became acidic, and precipitated crystals were collected by filtration and washed with water and n-hexane. The crystals were dried under reduced pressure to give the title compound (300 mg, Y.:63%) as white crystals.

reactant | 2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid amide | 475 mg | CC1=NN2C(N=CC(=C2)C(=O)N)=C1 | C8H8N4O
reactant | sodium hydroxide | 5 N, 2 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 300 mg, 63% | CC1=NN2C(N=CC(=C2)C(=O)O)=C1 | C8H7N3O2
